US03943148
1,2,3,4,5,6,7,8-Octahydro-3-methyl-7-phenylazonino[5,4-b]indole
Then 2,3,5,6,11,11b-hexahydro-4-methyl-11b-phenyl-1H-indolizino[8,7-b]indolium iodide (8.09 g.), 286 mg. lithium, 2.03 g. 1-methoxy-2-propanol and 2 liters liquid ammonia are reacted according to the method of Example I-(a). The white foam isolated from the 1:9 and 1:4 benzene-hexane elutes is crystallized from hexane to provide 4.38 g. base. A 300 mg. portion is crystallized (twice) from hexane thereby yielding 200 mg. of title compound, m.p. 117°-119°C., NMR (CDCl3): δ 2.45 (singlet, 3-methyl), 5.70 (triplet, J 8 cps., 7-hydrogen) ppm.

reactant | 2,3,5,6,11,11b-hexahydro-4-methyl-11b-phenyl-1H-indolizino[8,7-b]indolium iodide | 8.09 g | [I-].C[N+]12CCCC2(C=2NC3=CC=CC=C3C2CC1)C1=CC=CC=C1
reactant | lithium | [Li] | Li
reactant | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
reactant | ammonia | N | H3N
solvent | benzene hexane | C1=CC=CC=C1.CCCCCC
product | 1,2,3,4,5,6,7,8-Octahydro-3-methyl-7-phenylazonino[5,4-b]indole | CN1CCC2=C(NC=3C=CC=CC23)C(CCC1)C1=CC=CC=C1 | C21H24N2
